### PR TITLE
[Merged by Bors] - chore: forward-port leanprover-community/mathlib#19084 (file 2 of 2)

### PR DESCRIPTION
**Pull request by Multramate**
[`linear_algebra.free_module.ideal_quotient`@`6623e6af705e97002a9054c1c05a980180276fc1`..`d87199d51218d36a0a42c66c82d147b5a7ff87b3`](https://leanprover-community.github.io/mathlib-port-status/file/linear_algebra/free_module/ideal_quotient?range=6623e6af705e97002a9054c1c05a980180276fc1..d87199d51218d36a0a42c66c82d147b5a7ff87b3)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/FreeModule/IdealQuotient.lean [hunk 1]
```diff
@@ -23,7 +24,7 @@ import Mathlib.LinearAlgebra.QuotientPi
 -/
 
 
-open BigOperators
+open BigOperators DirectSum
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/FreeModule/IdealQuotient.lean:27]:
```suggestion
open scoped BigOperators DirectSum
```
May as well pull in the improvements from mathport too

File: Mathlib/LinearAlgebra/FreeModule/IdealQuotient.lean [hunk 2]
```diff
@@ -107,3 +108,24 @@ noncomputable def Ideal.fintypeQuotientOfFreeOfNeBot [Module.Free ℤ S] [Module
...
+#align ideal.quotient_equiv_direct_sum Ideal.quotientEquivDirectSum
+
+theorem Ideal.finrank_quotient_eq_sum [Nontrivial F]
+    [∀ i, Module.Free F (R ⧸ Ideal.span ({I.smithCoeffs b hI i} : Set R))]
+    [∀ i, Module.Finite F (R ⧸ Ideal.span ({I.smithCoeffs b hI i} : Set R))] :
+    FiniteDimensional.finrank F (S ⧸ I) =
+      ∑ i, FiniteDimensional.finrank F (R ⧸ Ideal.span ({I.smithCoeffs b hI i} : Set R)) := by
+  rw [LinearEquiv.finrank_eq <| Ideal.quotientEquivDirectSum F b hI,
+    FiniteDimensional.finrank_directSum]
+-- slow, and dot notation doesn't work
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/FreeModule/IdealQuotient.lean:130]:
```suggestion
  -- slow, and dot notation doesn't work
  rw [LinearEquiv.finrank_eq <| Ideal.quotientEquivDirectSum F b hI,
    FiniteDimensional.finrank_directSum]
```

File: Mathlib/LinearAlgebra/FreeModule/IdealQuotient.lean [hunk 3]
```diff
@@ -107,3 +108,24 @@ noncomputable def Ideal.fintypeQuotientOfFreeOfNeBot [Module.Free ℤ S] [Module
...
 #align ideal.fintype_quotient_of_free_of_ne_bot Ideal.fintypeQuotientOfFreeOfNeBot
+
+variable (F : Type _) [CommRing F] [Algebra F R] [Algebra F S] [IsScalarTower F R S]
+  (b : Basis ι R S) {I : Ideal S} (hI : I ≠ ⊥)
+
+/-- Decompose `S⧸I` as a direct sum of cyclic `R`-modules
+  (quotients by the ideals generated by Smith coefficients of `I`). -/
+noncomputable def Ideal.quotientEquivDirectSum :
+    (S ⧸ I) ≃ₗ[F] ⨁ i, R ⧸ Ideal.span ({I.smithCoeffs b hI i} : Set R) :=
+  ((I.quotientEquivPiSpan b _).restrictScalars F).trans
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/FreeModule/IdealQuotient.lean:119]:
```suggestion
  -- porting note: manual construction of `CompatibleSmul` typeclass no longer needed
  ((I.quotientEquivPiSpan b _).restrictScalars F).trans
```
since it's there in the mathport output

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!
